US08039458B2
1-(2-Bromo-5-fluorophenyl)-1H-1,2,4-triazol-5(4H)-one:
To a stirred suspension of 2-(2-(2-bromo-5-fluorophenyl)hydrazono)acetic acid (2.65 g, 10.2 mmol) in toluene (80 mL) was added triethylamine (1.42 mL, 10.2 mmol) and diphenylphosphoryl azide (2.2 mL, 10.2 mmol). The resulting mixture was slowly heated to reflux temperature and the reflux was maintained for 1 h. The clear orange solution was cooled and then poured onto 10% aqueous KOH (100 mL). The basic extract was acidified (pH 1) with concentrated HCl. The precipitate that formed was collected by filtration, washed with water and dried at reduced pressure to afford the title compound as a yellow solid (1.75 g, 67% yield): 1H NMR (400 MHz, DMSO-D6) δ ppm 11.87 (1H, s), 8.10-8.08 (1H, m), 7.83 (1H, dd, J=8.8, 5.8 Hz), 7.50 (1 H, dd, J=9.1, 3.0 Hz), 7.34 (1H, td, J=8.6, 3.0 Hz); LCMS (+ESI, M+H+) m/z 258-260.

reactant | 2-(2-(2-bromo-5-fluorophenyl)hydrazono)acetic acid | 10.2 mmol, 2.65 g | BrC1=C(C=C(C=C1)F)NN=CC(=O)O | C8H6BrFN2O2
reactant | triethylamine | 10.2 mmol, 1.42 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 10.2 mmol, 2.2 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | KOH | 100 mL | [OH-].[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2-Bromo-5-fluorophenyl)-1H-1,2,4-triazol-5(4H)-one | 1.75 g, 67% yield | BrC1=C(C=C(C=C1)F)N1N=CNC1=O | C8H5BrFN3O
